US09315462B2
Step 2: Synthesis of ethyl 4-(3-chloro-6-methoxyquinolin-2-yl)cyclohexanecarboxylate
To ethyl 4-(3-chloro-6-methoxyquinolin-2-yl)cyclohex-3-enecarboxylate (900 mg, 2.60 mmol) in EtOH (40 mL) was added Rh(PPh3)3Cl (90.0 mg 0.0900 mmol). The mixture was stirred at 30° C. for 4 days under H2 (15 psi). The mixture was filtered off and the filtrate was concentrated to give the crude product, which was purified by silica gel column (PE/EtOAc=10/1) to give the desired product (234 mg, yield 26%).

reactant | ethyl 4-(3-chloro-6-methoxyquinolin-2-yl)cyclohex-3-enecarboxylate | 2.60 mmol, 900 mg | ClC=1C(=NC2=CC=C(C=C2C1)OC)C1=CCC(CC1)C(=O)OCC | C19H20ClNO3
solvent | EtOH | 40 mL | CCO | C2H6O
product | ethyl 4-(3-chloro-6-methoxyquinolin-2-yl)cyclohexanecarboxylate | 234 mg, yield 26% | ClC=1C(=NC2=CC=C(C=C2C1)OC)C1CCC(CC1)C(=O)OCC | C19H22ClNO3
